### ISSUE TITLE
`Lean.exprDependsOn'` does not take into account delayed assignments.

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#2483]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`Lean.exprDependsOn'` does not take into account delayed assignments, and so may miss dependencies.

### Steps to Reproduce

Apologies for the long test case (upstreaming `Std.Util.TermUnsafe` will shorten it!)

```
import Lean

open Lean Meta Elab Term Tactic

/-- Check if a goal is of a subsingleton type. -/
def Lean.MVarId.subsingleton? (g : MVarId) : MetaM Bool := do
  try
    _ ← Lean.Meta.synthInstance (← mkAppM `Subsingleton #[← g.getType])
    return true
  catch _ =>
    return false

/--
Check if a goal is "independent" of a list of other goals.
We say a goal is independent of other goals if assigning a value to it
can not change the solvability of the other goals.

This function only calculates a conservative approximation of this condition.
-/
def Lean.MVarId.independent? (L : List MVarId) (g : MVarId) : MetaM Bool := do
  let t ← instantiateMVars (← g.getType)
  if t.hasExprMVar then
    -- If the goal's type contains other meta-variables,
    -- we conservatively say that `g` is not independent.
    return false
  if t.isProp then
    -- If the goal is propositional,
    -- proof-irrelevance should ensure it is independent of any other goals.
    return true
  if ← g.subsingleton? then
    -- If the goal is a subsingleton, it should be independent of any other goals.
    return true
  -- Finally, we check if the goal `g` appears in the type of any of the goals `L`.
  let r ← L.allM fun g' => do
    let t' ← instantiateMVars (← g'.getType)
    pure <| !(← exprDependsOn' t' (.mvar g))
  return r

open Lean Meta Elab Term

/-- Construct an auxiliary name based on the current declaration name and the given `hint` base. -/
def mkAuxName (hint : Name) : TermElabM Name :=
  withFreshMacroScope do
    let name := (← getDeclName?).getD Name.anonymous ++ hint
    pure $ addMacroScope (← getMainModule) name (← getCurrMacroScope)

/--
`unsafe t : α` is an expression constructor which allows using unsafe declarations inside the
body of `t : α`, by creating an auxiliary definition containing `t` and using `implementedBy` to
wrap it in a safe interface. It is required that `α` is nonempty for this to be sound,
but even beyond that, an `unsafe` block should be carefully inspected for memory safety because
the compiler is unable to guarantee the safety of the operation.

For example, the `evalExpr` function is unsafe, because the compiler cannot guarantee that when
you call ```evalExpr Foo ``Foo e``` that the type `Foo` corresponds to the name `Foo`, but in a
particular use case, we can ensure this, so `unsafe (evalExpr Foo ``Foo e)` is a correct usage.
-/
elab "unsafe " t:term : term <= expectedType => do
  let mut t ← elabTerm t expectedType
  t ← instantiateMVars t
  if t.hasExprMVar then
    synthesizeSyntheticMVarsNoPostponing
    t ← instantiateMVars t
  if ← logUnassignedUsingErrorInfos (← getMVars t) then throwAbortTerm
  t ← mkAuxDefinitionFor (← Term.mkAuxName `unsafe) t
  let Expr.const unsafeFn unsafeLvls .. := t.getAppFn | unreachable!
  let ConstantInfo.defnInfo unsafeDefn ← getConstInfo unsafeFn | unreachable!
  let implName ← Term.mkAuxName `impl
  addDecl <| Declaration.defnDecl {
    name := implName
    type := unsafeDefn.type
    levelParams := unsafeDefn.levelParams
    value := ← mkOfNonempty unsafeDefn.type
    hints := ReducibilityHints.opaque
    safety := DefinitionSafety.safe
  }
  setImplementedBy implName unsafeFn
  pure $ mkAppN (mkConst implName unsafeLvls) t.getAppArgs

/-- The `run_tac doSeq` tactic executes code in `TacticM Unit`. -/
elab (name := runTac) "run_tac " e:doSeq : tactic => do
  ← unsafe evalTerm (TacticM Unit) (mkApp (mkConst ``TacticM) (mkConst ``Unit))
    (← `(discard do $e))

example : Σ α, Option α := by
  constructor
  -- Goals are `?fst : Type` and `?snd : Option ?fst`.
  -- Correctly, `independent?` claims neither is independent.
  -- (`?snd` because its type contains a metavariable, and `?fst` because `?snd`'s type depends on it)
  run_tac do
    let gs ← getGoals
    for g in gs do
      guard ! (← g.independent? gs)
  exact some 0

example : Σ α, Option α := by
  constructor
  -- Now we introduce a hypothesis in the second goal,
  -- thereby introducing a delayed assignment.
  rotate_left
  have := 0
  rotate_left
  -- Now `independent?` incorrectly thinks `?fst` is independent.
  run_tac do
    let gs ← getGoals
    for g in gs do
      guard ! (← g.independent? gs) <|> throwError m!"{← g.getType} was incorrectly considered independent!"
  exact some 0

```

This can be fixed by changing the `.mvar` section of `Lean.dependsOn.visitMain` to
```
      | .mvar mvarId     => do
        match (← getExprMVarAssignment? mvarId) with
        | some a => visit a
        | none   =>
          if pm mvarId then
            return true
          else
            match ← getDelayedMVarAssignment? mvarId with
            | some d => visit (.mvar d.mvarIdPending)
            | none =>
              let lctx := (← getMCtx).getDecl mvarId |>.lctx
              return lctx.any fun decl => pf decl.fvarId
```

I'll make a draft PR of this change, but I'm worried that this change has effects that I'm not anticipating so would appreciate a skeptical review.
